US09303007B2
A solution of bromine (0.682 mL, 13.3 mmol) in DCM (20 mL) was added to a solution of 1-(6-bromonaphthalen-2-yl)ethanone (3.30 g, 13.3 mmol) (>90% purity) in DCM (60 mL) and the reaction was stirred at rt overnight. The reaction mixture was concentrated to yield 2-bromo-1-(6-bromonaphthalen-2-yl)ethanone (4.35 g) as an off white solid which was used without further purification. LC-MS retention time 2.177 min; m/z 342.92 (MNa+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 10u C18 2.0×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 1 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode. 1H NMR (400 MHz, chloroform-d) δ ppm 8.49 (s, 1H), 8.03-8.10 (m, 2H), 7.86 (d, J=8.5 Hz, 1H), 7.85 (d, J=8.8 Hz, 1H), 7.67 (dd, J=8.8, 2.0 Hz, 1H), 4.56 (s, 2H).

reactant | bromine | 13.3 mmol, 0.682 mL | BrBr | Br2
reactant | 1-(6-bromonaphthalen-2-yl)ethanone | 13.3 mmol, 3.30 g | BrC=1C=C2C=CC(=CC2=CC1)C(C)=O | C12H9BrO
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo-1-(6-bromonaphthalen-2-yl)ethanone | 4.35 g | BrCC(=O)C1=CC2=CC=C(C=C2C=C1)Br | C12H8Br2O
